.param VDD=1.8
.param L=0.15

.subckt INVX1 in vdd vss out params: WN=0.42 WP=1.26
xm01 out in vdd vdd sky130_fd_pr__pfet_01v8 l={L} w={WP} as={WP*2*L} ad={WP*2*L} ps={2*(WP+(2*L))} pd={2*(WP+(2*L))}
xm02 out in vss vss sky130_fd_pr__nfet_01v8 l={L} w={WN} as={WN*2*L} ad={WN*2*L} ps={2*(WN+(2*L))} pd={2*(WN+(2*L))}
.ends INVX1

.subckt INVX2 in vdd vss out params: WN=0.84 WP=2.52
xm01 out in vdd vdd sky130_fd_pr__pfet_01v8 l={L} w={WP} as={WP*2*L} ad={WP*2*L} ps={2*(WP+(2*L))} pd={2*(WP+(2*L))}
xm02 out in vss vss sky130_fd_pr__nfet_01v8 l={L} w={WN} as={WN*2*L} ad={WN*2*L} ps={2*(WN+(2*L))} pd={2*(WN+(2*L))}
.ends INVX2

.subckt TG in n_in out p_in vdd vss params: WN=0.42 WP=1.26
xm01 in n_in out vss sky130_fd_pr__nfet_01v8 l={L} w={WN} as={WN*2*L} ad={WN*2*L} ps={2*(WN+(2*L))} pd={2*(WN+(2*L))}
xm02 out p_in in vdd sky130_fd_pr__pfet_01v8 l={L} w={WP} as={WP*2*L} ad={WP*2*L} ps={2*(WP+(2*L))} pd={2*(WP+(2*L))}
.ends TG

.subckt INVX4 in vdd vss out params: WN=1 WP=4.6
xm01 out in vdd vdd sky130_fd_pr__pfet_01v8 l={L} w={WP} as={WP*2*L} ad={WP*2*L} ps={2*(WP+(2*L))} pd={2*(WP+(2*L))}
xm02 out in vss vss sky130_fd_pr__nfet_01v8 l={L} w={WN} as={WN*2*L} ad={WN*2*L} ps={2*(WN+(2*L))} pd={2*(WN+(2*L))}
.ends INVX4

.subckt DFF in clk vdd vss Q
X0 a_n340_26# in vdd vdd sky130_fd_pr__pfet_01v8 ad=0.3906 pd=3.14 as=0.38034 ps=2.92842 w=1.26 l=0.15
X1 a_0_0# clk vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.12425 ps=1.40711 w=0.42 l=0.15
X2 a_2334_26# a_1979_26# vss vss sky130_fd_pr__nfet_01v8 ad=0.063 pd=0.72 as=0.12425 ps=1.40711 w=0.42 l=0.15
X3 a_407_26# a_30_26# vss vss sky130_fd_pr__nfet_01v8 ad=0.1239 pd=1.43 as=0.12425 ps=1.40711 w=0.42 l=0.15
X4 vdd a_1979_26# a_2334_26# vdd sky130_fd_pr__pfet_01v8 ad=0.38034 pd=2.92842 as=0.189 ps=1.56 w=1.26 l=0.15
X5 Q a_2334_26# vdd vdd sky130_fd_pr__pfet_01v8 ad=0.207 pd=1.51 as=0.34713 ps=2.67276 w=1.15 l=0.15
X6 vdd a_2334_26# Q vdd sky130_fd_pr__pfet_01v8 ad=0.34713 pd=2.67276 as=0.207 ps=1.51 w=1.15 l=0.15
X7 a_2876_26# a_2334_26# vdd vdd sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.38034 ps=2.92842 w=1.26 l=0.15
X8 vss a_2334_26# Q vss sky130_fd_pr__nfet_01v8 ad=0.14792 pd=1.67513 as=0.0775 ps=0.81 w=0.5 l=0.15
X9 a_1979_26# clk a_407_26# vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.1239 ps=1.43 w=0.42 l=0.15
X10 a_407_26# a_30_26# vdd vdd sky130_fd_pr__pfet_01v8 ad=0.378 pd=3.12 as=0.38034 ps=2.92842 w=1.26 l=0.15
X11 a_30_26# a_0_0# a_713_26# vdd sky130_fd_pr__pfet_01v8 ad=0.3654 pd=3.1 as=0.3906 ps=3.14 w=1.26 l=0.15
X12 a_2876_26# a_2334_26# vss vss sky130_fd_pr__nfet_01v8 ad=0.1239 pd=1.43 as=0.12425 ps=1.40711 w=0.42 l=0.15
X13 a_30_26# clk a_n340_26# vdd sky130_fd_pr__pfet_01v8 ad=0.3654 pd=3.1 as=0.3906 ps=3.14 w=1.26 l=0.15
X14 a_n340_26# in vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.12425 ps=1.40711 w=0.42 l=0.15
X15 a_2334_26# a_1979_26# vdd vdd sky130_fd_pr__pfet_01v8 ad=0.189 pd=1.56 as=0.38034 ps=2.92842 w=1.26 l=0.15
X16 a_713_26# a_407_26# vdd vdd sky130_fd_pr__pfet_01v8 ad=0.3906 pd=3.14 as=0.38034 ps=2.92842 w=1.26 l=0.15
X17 Q a_2334_26# vss vss sky130_fd_pr__nfet_01v8 ad=0.0775 pd=0.81 as=0.14792 ps=1.67513 w=0.5 l=0.15
X18 a_0_0# clk vdd vdd sky130_fd_pr__pfet_01v8 ad=0.3906 pd=3.14 as=0.38034 ps=2.92842 w=1.26 l=0.15
X19 a_1979_26# clk a_2876_26# vdd sky130_fd_pr__pfet_01v8 ad=0.3906 pd=3.14 as=0.378 ps=3.12 w=1.26 l=0.15
X20 a_30_26# a_0_0# a_n340_26# vss sky130_fd_pr__nfet_01v8 ad=0.1218 pd=1.42 as=0.126 ps=1.44 w=0.42 l=0.15
X21 vss a_1979_26# a_2334_26# vss sky130_fd_pr__nfet_01v8 ad=0.12425 pd=1.40711 as=0.063 ps=0.72 w=0.42 l=0.15
X22 a_713_26# a_407_26# vss vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.12425 ps=1.40711 w=0.42 l=0.15
X23 a_1979_26# a_0_0# a_407_26# vdd sky130_fd_pr__pfet_01v8 ad=0.3906 pd=3.14 as=0.378 ps=3.12 w=1.26 l=0.15
X24 Q a_2334_26# vdd vdd sky130_fd_pr__pfet_01v8 ad=0.207 pd=1.51 as=0.34713 ps=2.67276 w=1.15 l=0.15
X25 a_1979_26# a_0_0# a_2876_26# vss sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.1239 ps=1.43 w=0.42 l=0.15
X26 vdd a_2334_26# Q vdd sky130_fd_pr__pfet_01v8 ad=0.34713 pd=2.67276 as=0.207 ps=1.51 w=1.15 l=0.15
X27 a_30_26# clk a_713_26# vss sky130_fd_pr__nfet_01v8 ad=0.1218 pd=1.42 as=0.126 ps=1.44 w=0.42 l=0.15
C0 in vdd 0.09994f
C1 Q a_2334_26# 0.17523f
C2 Q vdd 0.41951f
C3 a_2876_26# a_1979_26# 0.23377f
C4 clk a_1979_26# 0.2972f
C5 clk a_2876_26# 0.17921f
C6 a_30_26# a_1979_26# 0.00121f
C7 a_0_0# a_1979_26# 0.09523f
C8 a_0_0# a_2876_26# 0.06324f
C9 a_30_26# clk 0.67925f
C10 a_0_0# clk 1.21198f
C11 a_2334_26# a_1979_26# 0.35069f
C12 a_1979_26# a_407_26# 0.17132f
C13 vdd a_1979_26# 1.41068f
C14 a_2334_26# a_2876_26# 0.093f
C15 a_713_26# a_1979_26# 0
C16 a_2876_26# a_407_26# 0
C17 vdd a_2876_26# 0.36897f
C18 a_n340_26# clk 0.01906f
C19 a_2334_26# clk 0.15026f
C20 clk a_407_26# 0.32621f
C21 vdd clk 0.89003f
C22 a_713_26# clk 0.05606f
C23 Q a_1979_26# 0.00849f
C24 Q a_2876_26# 0
C25 in clk 0.00471f
C26 Q clk 0
C27 a_0_0# a_30_26# 0.1812f
C28 a_n340_26# a_30_26# 0.15521f
C29 a_2334_26# a_30_26# 0
C30 a_0_0# a_n340_26# 0.00964f
C31 a_30_26# a_407_26# 0.19178f
C32 vdd a_30_26# 0.95588f
C33 a_2334_26# a_0_0# 0.2185f
C34 a_0_0# a_407_26# 0.28164f
C35 a_713_26# a_30_26# 0.18174f
C36 a_0_0# vdd 0.65316f
C37 a_713_26# a_0_0# 0.08897f
C38 in a_30_26# 0.0013f
C39 a_n340_26# a_407_26# 0.00339f
C40 vdd a_n340_26# 0.38134f
C41 in a_0_0# 0.00372f
C42 a_2334_26# a_407_26# 0.00151f
C43 a_2334_26# vdd 0.82414f
C44 vdd a_407_26# 0.63915f
C45 Q a_0_0# 0
C46 a_713_26# a_2334_26# 0
C47 a_713_26# a_407_26# 0.08482f
C48 a_713_26# vdd 0.37385f
C49 in a_n340_26# 0.04491f
C50 in a_407_26# 0
C51 Q vss 0.2847f
C52 clk vss 1.45059f
C53 in vss 0.21088f
C54 vdd vss 6.10106f
C55 a_2876_26# vss 0.28492f
C56 a_713_26# vss 0.21866f
C57 a_n340_26# vss 0.26522f
C58 a_2334_26# vss 1.08157f
C59 a_1979_26# vss 0.54886f
C60 a_0_0# vss 2.11951f
C61 a_407_26# vss 0.72982f
C62 a_30_26# vss 0.313f

.ends DFF
